US05684002
A solution of 5-bromo-7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan (12.4 g, 44.0 mmol) in freshly distilled THF (44 mL) is cooled to -78° C. under Ar, and a solution of n-butyl lithium (2.5M in hexane; 15.0 mL, 37.5 mmol) is added dropwise via syringe. A slight exotherm is apparent, and a milky suspension results. The suspension is allowed to warm to -20° C., and then is cooled to -50° C. To the resulting suspension is added a large excess of freshly pulverized solid CO2. The resulting mixture is allowed to warm to 0° C. After 1 h, the mixture is partitioned between 0.1N NaOH (40 mL) and hexane (3×30 mL). The hexane layer is dried (MgSO4), filtered and evaporated to yield 7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan. The aqueous layer is acidified to pH 2 with 1N HCl, and is extracted with Et2O (3×20 mL). The Et2O layers are combined, dried (MgSO4), filtered and evaporated to provide the desired carboxylic acid.

reactant | 5-bromo-7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan | 44.0 mmol, 12.4 g | BrC1=CC2=C(OCC2(C)C)C(=C1)C(C)(C)C | C14H19BrO
reactant | n-butyl lithium | 37.5 mmol, 2.5M, 15.0 mL | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 44 mL | C1CCOC1 | C4H8O
product | 7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan | C(C)(C)(C)C1=CC=CC2=C1OCC2(C)C | C14H20O
